US06323235B1
1-(2-hydroxyethyl)-4-methoxyindole
Under argon atmosphere, NaH (283 mg) was added to 4-methoxyindole (516 mg) in DMF (10 ml) and the mixture was stirred at 0° C. for 15 minutes. To this mixture, 2-tetrahydropyranyloxy-1-bromoethane (890 mg) was added and the mixture was gradually heated to room temperature, followed by stirring the mixture at room temperature for 90 minutes. The reaction mixture was added to saturated aqueous NH4Cl solution (5 ml) cooled at 0° C. to stop the reaction, and the resultant was extracted with ethyl acetate (3×10 ml). The obtained organic layers were washed with saturated brine and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure. The obtained oil was transferred to a reaction vessel and dissolved in methanol (10 ml), followed by cooling the obtained solution to 0° C. To this solution, 1N hydrochloric acid (1 ml) was added and the solution was stirred at 0° C. for 2 hours. After removing the solvent under reduced pressure, water (5 ml) was added and the resultant was extracted with ethyl acetate (3×20 ml). The obtained organic layers were washed with saturated brine and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure, and the obtained crude product was purified by silica gel column chromatography to obtain the desired compound (547 mg, yield: 82%).

reactant | NaH | 283 mg | [H-].[Na+]
reactant | 4-methoxyindole | 516 mg | COC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | 2-tetrahydropyranyloxy-1-bromoethane | 890 mg | O1C(CCCC1)OCCBr | C7H13BrO2
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(2-hydroxyethyl)-4-methoxyindole | 547 mg, yield: 82% | OCCN1C=CC2=C(C=CC=C12)OC | C11H13NO2
